* sky130_fd_sc_hd__o21ai_0 pin A2 → Y (negative_unate) on sky130_fd_pr tt — Polari lod-3b/3d/2c
.option scale=1.0e-6
.temp 26.85
.include "/home/user/.cache/polari-lod/sky130_pr/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/home/user/.cache/polari-lod/sky130_pr/sky130_fd_pr__nfet_01v8__tt.corner.spice"
.include "/home/user/.cache/polari-lod/sky130_pr/sky130_fd_pr__pfet_01v8_hvt__mismatch.corner.spice"
.include "/home/user/.cache/polari-lod/sky130_pr/sky130_fd_pr__pfet_01v8_hvt__tt.corner.spice"
.include "/home/user/.cache/polari-lod/sky130_pr/sky130_fd_sc_hd__o21ai_0.spice"
VDD vpwr 0 0.6
VSS vgnd 0 0
VA1 a1 0 0
VB1 b1 0 0.6
Xdut a1 a_in b1 vgnd vgnd vpwr vpwr y sky130_fd_sc_hd__o21ai_0
Cload y 0 4.1654e-05p
.save v(a_in) v(y)
Vin a_in 0 pwl(0 0 1.0n 0 1.001696333n 0.6 401.0n 0.6 401.001696333n 0 801.0n 0)
.tran 0.002n 801.0n
.control
run
meas tran tphl trig v(a_in) val=0.3 rise=1 targ v(y) val=0.3 fall=1
meas tran tplh trig v(a_in) val=0.3 fall=1 targ v(y) val=0.3 rise=1
meas tran tfall trig v(y) val=0.48 fall=1 targ v(y) val=0.12 fall=1
meas tran trise trig v(y) val=0.12 rise=1 targ v(y) val=0.48 rise=1
quit
.endc
.end
